US06953809B2
Acetyl chloride (0.76 ml) was added to a suspension of anhydrous aluminium (III) chloride (1.42 g) in 1,2-dichloroethane (20 ml) at 0° C. The reaction was stirred for 5 minutes then a solution of ethyl indole-2-carboxylate (1 g) in 1,2-dichloroethane (20 ml) was added dropwise over 10 minutes. The reaction was heated at reflux for 1 hour, cooled and poured into ice/water. The solution was partitioned between ethyl acetate and saturated aqueous sodium hydrogen carbonate solution. Combined organic extracts were dried (MgSO4) and concentrated in vacuo and the residue purified by column chromatography using isohexane-10% ethyl acetate as eluent to give firstly ethyl 7-acetylindole-2-carboxylate as a white solid (0.18 g, 15%); NMR δ (CD3SOCD3) 1.35 (t, 3H), 2.7 (s, 3H), 4.4 (q, 2H), 7.3 (m, 2H), 8.05 (m, 2H), 10.7 (bs, 11H); M/z (+) 232 (MH+), followed by ethyl 3-acetylindole-2-carboxylate as a white solid (0.2 g, 16%); NMR δ (CD3SOCD3) 1.35 (t, 3H), 2.6 (s, 3H), 4.4 (q, 2H), 7.2 (t, 1H), 7.3 (t, 1H), 7.5 (d, 1H), 7.9 (d, 1H), 12.4 (bs, 1H); M/z (+) 232 (MH+), followed by ethyl 5-acetylindole-2-carboxylate as a white solid (0.5 g, 42%); NMR δ (CD3SOCD3) 1.35 (t, 3H), 2.6 (s, 3H), 4.35 (q, 2H), 7.3 (s, 1H), 7.5 (d, 1H), 7.85 (d, 1H), 8.4 (s, 1H), 12.2 (bs, 1H); M/z (+) 232 (MH+).

reactant | Acetyl chloride | 0.76 ml | C(C)(=O)Cl | C2H3ClO
reactant | aluminium (III) chloride | 1.42 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | ethyl indole-2-carboxylate | 1 g | N1C(=CC2=CC=CC=C12)C(=O)OCC | C11H11NO2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
product | ethyl 7-acetylindole-2-carboxylate | 0.18 g, 15% | C(C)(=O)C=1C=CC=C2C=C(NC12)C(=O)OCC | C13H13NO3
